US09403832B2
Part A. 4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carbonitrile
3-bromo-5-(piperazin-1-yl)pyrazolo[1,5-a]pyrimidine (500 mg, 1.77 mmol) taken up in 20 mL DCM and stirred at 0° C. in an ice bath. Sodium bicarbonate (744 mg, 8.86 mmol) in 6 mL water added and stirred. Cyanogen bromide (225 mg, 2.12 mmol) added and stirred at 0° C. for 30 minutes then allowed to reach room temperature and stirred overnight. Reaction diluted with DCM washed with water, DCM layer dried over magnesium sulfate reduced in vacuo for 500 mg crude product for further reaction as is. LRMS (ESI) m/z 307/309 [(M+H)]+, calc'd for C11H11BrN6: 307.15.

reactant | 3-bromo-5-(piperazin-1-yl)pyrazolo[1,5-a]pyrimidine | 1.77 mmol, 500 mg | BrC=1C=NN2C1N=C(C=C2)N2CCNCC2 | C10H12BrN5
reactant | Sodium bicarbonate | 8.86 mmol, 744 mg | C([O-])(O)=O.[Na+]
reactant | Cyanogen bromide | 2.12 mmol, 225 mg | N#CBr | CBrN
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | 6 mL | O | H2O
product | 4-(3-bromopyrazolo[1,5-a]pyrimidin-5-yl)piperazine-1-carbonitrile | BrC=1C=NN2C1N=C(C=C2)N2CCN(CC2)C#N | C11H11BrN6
